US08022062B2
Using a method similar to the General Procedure 5-4, combine 6-amino-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (60 mg, 0.21 mmol), 6-bromomethyl-2-cyclohexyl-benzothiazole (0.1 g, 0.31 mmol), potassium carbonate (58 mg, 0.42 mmol) and anhydrous toluene (2 mL) in a sealed tube and heat at 100° C. for 72 h to obtain 7-chloro-6-[(2-cyclohexyl-benzothiazol-6-yl-methyl)-amino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a colorless oil.

reactant | 6-amino-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.21 mmol, 60 mg | NC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)Cl | C12H12ClF3N2O
reactant | 6-bromomethyl-2-cyclohexyl-benzothiazole | 0.31 mmol, 0.1 g | BrCC1=CC2=C(N=C(S2)C2CCCCC2)C=C1 | C14H16BrNS
reactant | potassium carbonate | 0.42 mmol, 58 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 7-chloro-6-[(2-cyclohexyl-benzothiazol-6-yl-methyl)-amino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC2=C(N=C(S2)C2CCCCC2)C=C1 | C26H27ClF3N3OS
